US20010003121A1
2-Chloro-N-(2-[tricyclo[3.3.1.13,7]dec-1-yl]ethyl)-benzamide
Prepared according to the method of Example 1 from 1-adamantaneethylamine hydrochloride (0.055 g) and 2-chlorobenzoyl chloride (0.033 ml) to give the title compound as a white solid (0.074 g).

reactant | 1-adamantaneethylamine hydrochloride | 0.055 g | Cl.C12(CC3CC(CC(C1)C3)C2)CCN
reactant | 2-chlorobenzoyl chloride | 0.033 ml | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
product | 2-Chloro-N-(2-[tricyclo[3.3.1.13,7]dec-1-yl]ethyl)-benzamide | 0.074 g | ClC1=C(C(=O)NCCC23CC4CC(CC(C2)C4)C3)C=CC=C1 | C19H24ClNO
